US04877779
6-Diethylaminohex-4-yn-1-ol.
A mixture of paraformaldehyde (21.42 g, 714 mmol), diethylamine (82.2 mL, 801 mmol) and copper(11) acetate (2 g) was heated at 60° C. in dioxane (120 mL). After 1.4 hours pent-4-yn-1-ol (60 g, 714 mmol) was added and the mixture was heated at 95° C. for 3 hours. The cooled reaction mixture was poured onto 10% potassium hydroxide (120 mL) and the resulting mixture was filtered through Celite which was washed with diethyl ether. The organic layer was separated and washed with water (3×120 mL). The aqueous extract was back-extracted with methylene chloride (3×100 mL). The combined organic layers were washed with brine, dried (MgSO4), and evaporated at reduced pressure. The residue was Kugelrohr distilled to afford 102 g (99%) of the product as an oil. 1H NMR (CDCl3)δ: 1.13 (t, 6H), 1.72 (quintet, 2H), 2.31 (t, 2H), 2.55 (q, 4H), 3.38 (d, 2H), 3.68 (t, 2H), 3.95 (s, 1H) ppm.

reactant | paraformaldehyde | 714 mmol, 21.42 g | C=O | CH2O
reactant | diethylamine | 801 mmol, 82.2 mL | C(C)NCC | C4H11N
reactant | pent-4-yn-1-ol | 714 mmol, 60 g | C(CCC#C)O | C5H8O
reactant | potassium hydroxide | 120 mL | [OH-].[K+]
solvent | dioxane | 120 mL | O1CCOCC1 | C4H8O2
catalyst | copper(11) acetate | 2 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 6-Diethylaminohex-4-yn-1-ol | 102 g, 99% | C(C)N(CC#CCCCO)CC | C10H19NO
